US08669234B2
(S)-benzyl 7-((S)-2-(methoxycarbonylamino)-3-methylbutanoyl)-1,4-dioxa-7-azaspiro[4.4]nonane-8-carboxylate
(S)-benzyl 1-((S)-2-(methoxycarbonylamino)-3-methylbutanoyl)-4-oxopyrrolidine-2-carboxylate (2.45 g, 6.51 mmol) in a round bottom flask was dissolved in anhydrous toluene (200 mL) and p-toluene sulfonic acid monohydride (124 mg, 0.1 mmol) and ethylene glycol (808 mg, 13.02 mmol) were added and the mixture was refluxed for 18 hours, removing the generated byproduct water with a Dean-Stark apparatus. The crude mixture was then diluted with ethyl acetate and washed, respectively, with 10% citric acid, saturated ammonium chloride, 10% sodium carbonate and finally with brine. The organic layers were combined and dried over sodium sulfate and concentrated down on rotovap. The crude residue was then purified on normal phase column chromatography with 5% MeOH/DCM. (2.3 g, 84%)

reactant | (S)-benzyl 1-((S)-2-(methoxycarbonylamino)-3-methylbutanoyl)-4-oxopyrrolidine-2-carboxylate | 6.51 mmol, 2.45 g | COC(=O)N[C@H](C(=O)N1[C@@H](CC(C1)=O)C(=O)OCC1=CC=CC=C1)C(C)C | C19H24N2O6
reactant | p-toluene sulfonic acid monohydride | 0.1 mmol, 124 mg | C1(=CC=C(C=C1)S(=O)=O)C | C7H8O2S
reactant | ethylene glycol | 13.02 mmol, 808 mg | C(CO)O | C2H6O2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-benzyl 7-((S)-2-(methoxycarbonylamino)-3-methylbutanoyl)-1,4-dioxa-7-azaspiro[4.4]nonane-8-carboxylate | COC(=O)N[C@H](C(=O)N1CC2(OCCO2)C[C@H]1C(=O)OCC1=CC=CC=C1)C(C)C | C21H28N2O7
